*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.004/0.002


.subckt chiplet2
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_0_9
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_1_8
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_2_9
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_3_8
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_4_9
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
+nd_pad_port_5_8
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_6_5
+nd_pad_port_6_7
+nd_pad_port_6_9
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_7_4
+nd_pad_port_7_6
+nd_pad_port_7_8
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_8_5
+nd_pad_port_8_7
+nd_pad_port_8_9
+nd_pad_port_9_0
+nd_pad_port_9_2
+nd_pad_port_9_4
+nd_pad_port_9_6
+nd_pad_port_9_8
+nd_1_0_7500_3000
*-- p/g port #: 50/50

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_500_1000 nd_1_0_1500_1000 0.016324
rd_1_2_0_0_1 nd_1_0_1500_1000 nd_1_0_2500_1000 0.016324
rd_1_2_0_0_2 nd_1_0_2500_1000 nd_1_0_3500_1000 0.016324
rd_1_2_0_0_3 nd_1_0_3500_1000 nd_1_0_4500_1000 0.016324
rd_1_2_0_0_4 nd_1_0_4500_1000 nd_1_0_5500_1000 0.016324
rd_1_2_0_0_5 nd_1_0_5500_1000 nd_1_0_6500_1000 0.016324
rd_1_2_0_0_6 nd_1_0_6500_1000 nd_1_0_7500_1000 0.016324
rd_1_2_0_0_7 nd_1_0_7500_1000 nd_1_0_8500_1000 0.016324
rd_1_2_0_0_8 nd_1_0_8500_1000 nd_1_0_9500_1000 0.016324
rd_1_2_0_1_0 nd_1_0_500_3000 nd_1_0_1500_3000 0.016324
rd_1_2_0_1_1 nd_1_0_1500_3000 nd_1_0_2500_3000 0.016324
rd_1_2_0_1_2 nd_1_0_2500_3000 nd_1_0_3500_3000 0.016324
rd_1_2_0_1_3 nd_1_0_3500_3000 nd_1_0_4500_3000 0.016324
rd_1_2_0_1_4 nd_1_0_4500_3000 nd_1_0_5500_3000 0.016324
rd_1_2_0_1_5 nd_1_0_5500_3000 nd_1_0_6500_3000 0.016324
rd_1_2_0_1_6 nd_1_0_6500_3000 nd_1_0_7500_3000 0.016324
rd_1_2_0_1_7 nd_1_0_7500_3000 nd_1_0_8500_3000 0.016324
rd_1_2_0_1_8 nd_1_0_8500_3000 nd_1_0_9500_3000 0.016324
rd_1_2_0_2_0 nd_1_0_500_5000 nd_1_0_1500_5000 0.016324
rd_1_2_0_2_1 nd_1_0_1500_5000 nd_1_0_2500_5000 0.016324
rd_1_2_0_2_2 nd_1_0_2500_5000 nd_1_0_3500_5000 0.016324
rd_1_2_0_2_3 nd_1_0_3500_5000 nd_1_0_4500_5000 0.016324
rd_1_2_0_2_4 nd_1_0_4500_5000 nd_1_0_5500_5000 0.016324
rd_1_2_0_2_5 nd_1_0_5500_5000 nd_1_0_6500_5000 0.016324
rd_1_2_0_2_6 nd_1_0_6500_5000 nd_1_0_7500_5000 0.016324
rd_1_2_0_2_7 nd_1_0_7500_5000 nd_1_0_8500_5000 0.016324
rd_1_2_0_2_8 nd_1_0_8500_5000 nd_1_0_9500_5000 0.016324
rd_1_2_0_3_0 nd_1_0_500_7000 nd_1_0_1500_7000 0.016324
rd_1_2_0_3_1 nd_1_0_1500_7000 nd_1_0_2500_7000 0.016324
rd_1_2_0_3_2 nd_1_0_2500_7000 nd_1_0_3500_7000 0.016324
rd_1_2_0_3_3 nd_1_0_3500_7000 nd_1_0_4500_7000 0.016324
rd_1_2_0_3_4 nd_1_0_4500_7000 nd_1_0_5500_7000 0.016324
rd_1_2_0_3_5 nd_1_0_5500_7000 nd_1_0_6500_7000 0.016324
rd_1_2_0_3_6 nd_1_0_6500_7000 nd_1_0_7500_7000 0.016324
rd_1_2_0_3_7 nd_1_0_7500_7000 nd_1_0_8500_7000 0.016324
rd_1_2_0_3_8 nd_1_0_8500_7000 nd_1_0_9500_7000 0.016324
rd_1_2_0_4_0 nd_1_0_500_9000 nd_1_0_1500_9000 0.016324
rd_1_2_0_4_1 nd_1_0_1500_9000 nd_1_0_2500_9000 0.016324
rd_1_2_0_4_2 nd_1_0_2500_9000 nd_1_0_3500_9000 0.016324
rd_1_2_0_4_3 nd_1_0_3500_9000 nd_1_0_4500_9000 0.016324
rd_1_2_0_4_4 nd_1_0_4500_9000 nd_1_0_5500_9000 0.016324
rd_1_2_0_4_5 nd_1_0_5500_9000 nd_1_0_6500_9000 0.016324
rd_1_2_0_4_6 nd_1_0_6500_9000 nd_1_0_7500_9000 0.016324
rd_1_2_0_4_7 nd_1_0_7500_9000 nd_1_0_8500_9000 0.016324
rd_1_2_0_4_8 nd_1_0_8500_9000 nd_1_0_9500_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_500_1000 nd_2_0_500_3000 0.016324
rd_2_1_0_0_1 nd_2_0_500_3000 nd_2_0_500_5000 0.016324
rd_2_1_0_0_2 nd_2_0_500_5000 nd_2_0_500_7000 0.016324
rd_2_1_0_0_3 nd_2_0_500_7000 nd_2_0_500_9000 0.016324
rd_2_1_0_1_0 nd_2_0_1500_1000 nd_2_0_1500_3000 0.016324
rd_2_1_0_1_1 nd_2_0_1500_3000 nd_2_0_1500_5000 0.016324
rd_2_1_0_1_2 nd_2_0_1500_5000 nd_2_0_1500_7000 0.016324
rd_2_1_0_1_3 nd_2_0_1500_7000 nd_2_0_1500_9000 0.016324
rd_2_1_0_2_0 nd_2_0_2500_1000 nd_2_0_2500_3000 0.016324
rd_2_1_0_2_1 nd_2_0_2500_3000 nd_2_0_2500_5000 0.016324
rd_2_1_0_2_2 nd_2_0_2500_5000 nd_2_0_2500_7000 0.016324
rd_2_1_0_2_3 nd_2_0_2500_7000 nd_2_0_2500_9000 0.016324
rd_2_1_0_3_0 nd_2_0_3500_1000 nd_2_0_3500_3000 0.016324
rd_2_1_0_3_1 nd_2_0_3500_3000 nd_2_0_3500_5000 0.016324
rd_2_1_0_3_2 nd_2_0_3500_5000 nd_2_0_3500_7000 0.016324
rd_2_1_0_3_3 nd_2_0_3500_7000 nd_2_0_3500_9000 0.016324
rd_2_1_0_4_0 nd_2_0_4500_1000 nd_2_0_4500_3000 0.016324
rd_2_1_0_4_1 nd_2_0_4500_3000 nd_2_0_4500_5000 0.016324
rd_2_1_0_4_2 nd_2_0_4500_5000 nd_2_0_4500_7000 0.016324
rd_2_1_0_4_3 nd_2_0_4500_7000 nd_2_0_4500_9000 0.016324
rd_2_1_0_5_0 nd_2_0_5500_1000 nd_2_0_5500_3000 0.016324
rd_2_1_0_5_1 nd_2_0_5500_3000 nd_2_0_5500_5000 0.016324
rd_2_1_0_5_2 nd_2_0_5500_5000 nd_2_0_5500_7000 0.016324
rd_2_1_0_5_3 nd_2_0_5500_7000 nd_2_0_5500_9000 0.016324
rd_2_1_0_6_0 nd_2_0_6500_1000 nd_2_0_6500_3000 0.016324
rd_2_1_0_6_1 nd_2_0_6500_3000 nd_2_0_6500_5000 0.016324
rd_2_1_0_6_2 nd_2_0_6500_5000 nd_2_0_6500_7000 0.016324
rd_2_1_0_6_3 nd_2_0_6500_7000 nd_2_0_6500_9000 0.016324
rd_2_1_0_7_0 nd_2_0_7500_1000 nd_2_0_7500_3000 0.016324
rd_2_1_0_7_1 nd_2_0_7500_3000 nd_2_0_7500_5000 0.016324
rd_2_1_0_7_2 nd_2_0_7500_5000 nd_2_0_7500_7000 0.016324
rd_2_1_0_7_3 nd_2_0_7500_7000 nd_2_0_7500_9000 0.016324
rd_2_1_0_8_0 nd_2_0_8500_1000 nd_2_0_8500_3000 0.016324
rd_2_1_0_8_1 nd_2_0_8500_3000 nd_2_0_8500_5000 0.016324
rd_2_1_0_8_2 nd_2_0_8500_5000 nd_2_0_8500_7000 0.016324
rd_2_1_0_8_3 nd_2_0_8500_7000 nd_2_0_8500_9000 0.016324
rd_2_1_0_9_0 nd_2_0_9500_1000 nd_2_0_9500_3000 0.016324
rd_2_1_0_9_1 nd_2_0_9500_3000 nd_2_0_9500_5000 0.016324
rd_2_1_0_9_2 nd_2_0_9500_5000 nd_2_0_9500_7000 0.016324
rd_2_1_0_9_3 nd_2_0_9500_7000 nd_2_0_9500_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_500_1000 nd_2_0_500_1000 0.005
rvd_1_0_0_1 nd_1_0_1500_1000 nd_2_0_1500_1000 0.005
rvd_1_0_0_2 nd_1_0_2500_1000 nd_2_0_2500_1000 0.005
rvd_1_0_0_3 nd_1_0_3500_1000 nd_2_0_3500_1000 0.005
rvd_1_0_0_4 nd_1_0_4500_1000 nd_2_0_4500_1000 0.005
rvd_1_0_0_5 nd_1_0_5500_1000 nd_2_0_5500_1000 0.005
rvd_1_0_0_6 nd_1_0_6500_1000 nd_2_0_6500_1000 0.005
rvd_1_0_0_7 nd_1_0_7500_1000 nd_2_0_7500_1000 0.005
rvd_1_0_0_8 nd_1_0_8500_1000 nd_2_0_8500_1000 0.005
rvd_1_0_0_9 nd_1_0_9500_1000 nd_2_0_9500_1000 0.005
rvd_1_0_1_0 nd_1_0_500_3000 nd_2_0_500_3000 0.005
rvd_1_0_1_1 nd_1_0_1500_3000 nd_2_0_1500_3000 0.005
rvd_1_0_1_2 nd_1_0_2500_3000 nd_2_0_2500_3000 0.005
rvd_1_0_1_3 nd_1_0_3500_3000 nd_2_0_3500_3000 0.005
rvd_1_0_1_4 nd_1_0_4500_3000 nd_2_0_4500_3000 0.005
rvd_1_0_1_5 nd_1_0_5500_3000 nd_2_0_5500_3000 0.005
rvd_1_0_1_6 nd_1_0_6500_3000 nd_2_0_6500_3000 0.005
rvd_1_0_1_7 nd_1_0_7500_3000 nd_2_0_7500_3000 0.005
rvd_1_0_1_8 nd_1_0_8500_3000 nd_2_0_8500_3000 0.005
rvd_1_0_1_9 nd_1_0_9500_3000 nd_2_0_9500_3000 0.005
rvd_1_0_2_0 nd_1_0_500_5000 nd_2_0_500_5000 0.005
rvd_1_0_2_1 nd_1_0_1500_5000 nd_2_0_1500_5000 0.005
rvd_1_0_2_2 nd_1_0_2500_5000 nd_2_0_2500_5000 0.005
rvd_1_0_2_3 nd_1_0_3500_5000 nd_2_0_3500_5000 0.005
rvd_1_0_2_4 nd_1_0_4500_5000 nd_2_0_4500_5000 0.005
rvd_1_0_2_5 nd_1_0_5500_5000 nd_2_0_5500_5000 0.005
rvd_1_0_2_6 nd_1_0_6500_5000 nd_2_0_6500_5000 0.005
rvd_1_0_2_7 nd_1_0_7500_5000 nd_2_0_7500_5000 0.005
rvd_1_0_2_8 nd_1_0_8500_5000 nd_2_0_8500_5000 0.005
rvd_1_0_2_9 nd_1_0_9500_5000 nd_2_0_9500_5000 0.005
rvd_1_0_3_0 nd_1_0_500_7000 nd_2_0_500_7000 0.005
rvd_1_0_3_1 nd_1_0_1500_7000 nd_2_0_1500_7000 0.005
rvd_1_0_3_2 nd_1_0_2500_7000 nd_2_0_2500_7000 0.005
rvd_1_0_3_3 nd_1_0_3500_7000 nd_2_0_3500_7000 0.005
rvd_1_0_3_4 nd_1_0_4500_7000 nd_2_0_4500_7000 0.005
rvd_1_0_3_5 nd_1_0_5500_7000 nd_2_0_5500_7000 0.005
rvd_1_0_3_6 nd_1_0_6500_7000 nd_2_0_6500_7000 0.005
rvd_1_0_3_7 nd_1_0_7500_7000 nd_2_0_7500_7000 0.005
rvd_1_0_3_8 nd_1_0_8500_7000 nd_2_0_8500_7000 0.005
rvd_1_0_3_9 nd_1_0_9500_7000 nd_2_0_9500_7000 0.005
rvd_1_0_4_0 nd_1_0_500_9000 nd_2_0_500_9000 0.005
rvd_1_0_4_1 nd_1_0_1500_9000 nd_2_0_1500_9000 0.005
rvd_1_0_4_2 nd_1_0_2500_9000 nd_2_0_2500_9000 0.005
rvd_1_0_4_3 nd_1_0_3500_9000 nd_2_0_3500_9000 0.005
rvd_1_0_4_4 nd_1_0_4500_9000 nd_2_0_4500_9000 0.005
rvd_1_0_4_5 nd_1_0_5500_9000 nd_2_0_5500_9000 0.005
rvd_1_0_4_6 nd_1_0_6500_9000 nd_2_0_6500_9000 0.005
rvd_1_0_4_7 nd_1_0_7500_9000 nd_2_0_7500_9000 0.005
rvd_1_0_4_8 nd_1_0_8500_9000 nd_2_0_8500_9000 0.005
rvd_1_0_4_9 nd_1_0_9500_9000 nd_2_0_9500_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_500_1000 0 81.8445
rdesr_0_0_0_0 nd_1_0_500_1000 nd_1_0_500_1000_ci 81.8445
cd_0_0_0_0 nd_1_0_500_1000_ci 0 2.44366e-11
rdload_0_0_0_1 nd_1_0_1500_1000 0 70.8629
rdesr_0_0_0_1 nd_1_0_1500_1000 nd_1_0_1500_1000_ci 70.8629
cd_0_0_0_1 nd_1_0_1500_1000_ci 0 2.82235e-11
rdload_0_0_0_2 nd_1_0_2500_1000 0 62.0701
rdesr_0_0_0_2 nd_1_0_2500_1000 nd_1_0_2500_1000_ci 62.0701
cd_0_0_0_2 nd_1_0_2500_1000_ci 0 3.22216e-11
rdload_0_0_0_3 nd_1_0_3500_1000 0 176.458
rdesr_0_0_0_3 nd_1_0_3500_1000 nd_1_0_3500_1000_ci 176.458
cd_0_0_0_3 nd_1_0_3500_1000_ci 0 1.13341e-11
rdload_0_0_0_4 nd_1_0_4500_1000 0 132.322
rdesr_0_0_0_4 nd_1_0_4500_1000 nd_1_0_4500_1000_ci 132.322
cd_0_0_0_4 nd_1_0_4500_1000_ci 0 1.51146e-11
rdload_0_0_0_5 nd_1_0_5500_1000 0 77.8976
rdesr_0_0_0_5 nd_1_0_5500_1000 nd_1_0_5500_1000_ci 77.8976
cd_0_0_0_5 nd_1_0_5500_1000_ci 0 2.56747e-11
rdload_0_0_0_6 nd_1_0_6500_1000 0 68.2379
rdesr_0_0_0_6 nd_1_0_6500_1000 nd_1_0_6500_1000_ci 68.2379
cd_0_0_0_6 nd_1_0_6500_1000_ci 0 2.93092e-11
rdload_0_0_0_7 nd_1_0_7500_1000 0 226.83
rdesr_0_0_0_7 nd_1_0_7500_1000 nd_1_0_7500_1000_ci 226.83
cd_0_0_0_7 nd_1_0_7500_1000_ci 0 8.81718e-12
rdload_0_0_0_8 nd_1_0_8500_1000 0 54.7519
rdesr_0_0_0_8 nd_1_0_8500_1000 nd_1_0_8500_1000_ci 54.7519
cd_0_0_0_8 nd_1_0_8500_1000_ci 0 3.65284e-11
rdload_0_0_0_9 nd_1_0_9500_1000 0 123.512
rdesr_0_0_0_9 nd_1_0_9500_1000 nd_1_0_9500_1000_ci 123.512
cd_0_0_0_9 nd_1_0_9500_1000_ci 0 1.61927e-11
rdload_0_0_0_10 nd_1_0_500_3000 0 74.6146
rdesr_0_0_0_10 nd_1_0_500_3000 nd_1_0_500_3000_ci 74.6146
cd_0_0_0_10 nd_1_0_500_3000_ci 0 2.68044e-11
rdload_0_0_0_11 nd_1_0_1500_3000 0 66.394
rdesr_0_0_0_11 nd_1_0_1500_3000 nd_1_0_1500_3000_ci 66.394
cd_0_0_0_11 nd_1_0_1500_3000_ci 0 3.01232e-11
rdload_0_0_0_12 nd_1_0_2500_3000 0 59.062
rdesr_0_0_0_12 nd_1_0_2500_3000 nd_1_0_2500_3000_ci 59.062
cd_0_0_0_12 nd_1_0_2500_3000_ci 0 3.38627e-11
rdload_0_0_0_13 nd_1_0_3500_3000 0 53.5198
rdesr_0_0_0_13 nd_1_0_3500_3000 nd_1_0_3500_3000_ci 53.5198
cd_0_0_0_13 nd_1_0_3500_3000_ci 0 3.73693e-11
rdload_0_0_0_14 nd_1_0_4500_3000 0 118.16
rdesr_0_0_0_14 nd_1_0_4500_3000 nd_1_0_4500_3000_ci 118.16
cd_0_0_0_14 nd_1_0_4500_3000_ci 0 1.69262e-11
rdload_0_0_0_15 nd_1_0_5500_3000 0 72.8596
rdesr_0_0_0_15 nd_1_0_5500_3000 nd_1_0_5500_3000_ci 72.8596
cd_0_0_0_15 nd_1_0_5500_3000_ci 0 2.745e-11
rdload_0_0_0_16 nd_1_0_6500_3000 0 291.803
rdesr_0_0_0_16 nd_1_0_6500_3000 nd_1_0_6500_3000_ci 291.803
cd_0_0_0_16 nd_1_0_6500_3000_ci 0 6.85394e-12
rdload_0_0_0_17 nd_1_0_7500_3000 0 189.44
rdesr_0_0_0_17 nd_1_0_7500_3000 nd_1_0_7500_3000_ci 189.44
cd_0_0_0_17 nd_1_0_7500_3000_ci 0 1.05575e-11
rdload_0_0_0_18 nd_1_0_8500_3000 0 139.754
rdesr_0_0_0_18 nd_1_0_8500_3000 nd_1_0_8500_3000_ci 139.754
cd_0_0_0_18 nd_1_0_8500_3000_ci 0 1.43108e-11
rdload_0_0_0_19 nd_1_0_9500_3000 0 47.8972
rdesr_0_0_0_19 nd_1_0_9500_3000 nd_1_0_9500_3000_ci 47.8972
cd_0_0_0_19 nd_1_0_9500_3000_ci 0 4.17561e-11
rdload_0_0_0_20 nd_1_0_500_5000 0 43.8812
rdesr_0_0_0_20 nd_1_0_500_5000 nd_1_0_500_5000_ci 43.8812
cd_0_0_0_20 nd_1_0_500_5000_ci 0 4.55776e-11
rdload_0_0_0_21 nd_1_0_1500_5000 0 267.393
rdesr_0_0_0_21 nd_1_0_1500_5000 nd_1_0_1500_5000_ci 267.393
cd_0_0_0_21 nd_1_0_1500_5000_ci 0 7.47962e-12
rdload_0_0_0_22 nd_1_0_2500_5000 0 56.3356
rdesr_0_0_0_22 nd_1_0_2500_5000 nd_1_0_2500_5000_ci 56.3356
cd_0_0_0_22 nd_1_0_2500_5000_ci 0 3.55015e-11
rdload_0_0_0_23 nd_1_0_3500_5000 0 51.0606
rdesr_0_0_0_23 nd_1_0_3500_5000 nd_1_0_3500_5000_ci 51.0606
cd_0_0_0_23 nd_1_0_3500_5000_ci 0 3.91691e-11
rdload_0_0_0_24 nd_1_0_4500_5000 0 107.752
rdesr_0_0_0_24 nd_1_0_4500_5000 nd_1_0_4500_5000_ci 107.752
cd_0_0_0_24 nd_1_0_4500_5000_ci 0 1.85612e-11
rdload_0_0_0_25 nd_1_0_5500_5000 0 43.0367
rdesr_0_0_0_25 nd_1_0_5500_5000 nd_1_0_5500_5000_ci 43.0367
cd_0_0_0_25 nd_1_0_5500_5000_ci 0 4.6472e-11
rdload_0_0_0_26 nd_1_0_6500_5000 0 60.9582
rdesr_0_0_0_26 nd_1_0_6500_5000 nd_1_0_6500_5000_ci 60.9582
cd_0_0_0_26 nd_1_0_6500_5000_ci 0 3.28094e-11
rdload_0_0_0_27 nd_1_0_7500_5000 0 166.111
rdesr_0_0_0_27 nd_1_0_7500_5000 nd_1_0_7500_5000_ci 166.111
cd_0_0_0_27 nd_1_0_7500_5000_ci 0 1.20401e-11
rdload_0_0_0_28 nd_1_0_8500_5000 0 49.9732
rdesr_0_0_0_28 nd_1_0_8500_5000 nd_1_0_8500_5000_ci 49.9732
cd_0_0_0_28 nd_1_0_8500_5000_ci 0 4.00215e-11
rdload_0_0_0_29 nd_1_0_9500_5000 0 45.724
rdesr_0_0_0_29 nd_1_0_9500_5000 nd_1_0_9500_5000_ci 45.724
cd_0_0_0_29 nd_1_0_9500_5000_ci 0 4.37407e-11
rdload_0_0_0_30 nd_1_0_500_7000 0 86.4759
rdesr_0_0_0_30 nd_1_0_500_7000 nd_1_0_500_7000_ci 86.4759
cd_0_0_0_30 nd_1_0_500_7000_ci 0 2.31278e-11
rdload_0_0_0_31 nd_1_0_1500_7000 0 217.189
rdesr_0_0_0_31 nd_1_0_1500_7000 nd_1_0_1500_7000_ci 217.189
cd_0_0_0_31 nd_1_0_1500_7000_ci 0 9.20857e-12
rdload_0_0_0_32 nd_1_0_2500_7000 0 53.8672
rdesr_0_0_0_32 nd_1_0_2500_7000 nd_1_0_2500_7000_ci 53.8672
cd_0_0_0_32 nd_1_0_2500_7000_ci 0 3.71284e-11
rdload_0_0_0_33 nd_1_0_3500_7000 0 48.8152
rdesr_0_0_0_33 nd_1_0_3500_7000 nd_1_0_3500_7000_ci 48.8152
cd_0_0_0_33 nd_1_0_3500_7000_ci 0 4.09708e-11
rdload_0_0_0_34 nd_1_0_4500_7000 0 98.9598
rdesr_0_0_0_34 nd_1_0_4500_7000 nd_1_0_4500_7000_ci 98.9598
cd_0_0_0_34 nd_1_0_4500_7000_ci 0 2.02102e-11
rdload_0_0_0_35 nd_1_0_5500_7000 0 83.0781
rdesr_0_0_0_35 nd_1_0_5500_7000 nd_1_0_5500_7000_ci 83.0781
cd_0_0_0_35 nd_1_0_5500_7000_ci 0 2.40737e-11
rdload_0_0_0_36 nd_1_0_6500_7000 0 57.9647
rdesr_0_0_0_36 nd_1_0_6500_7000 nd_1_0_6500_7000_ci 57.9647
cd_0_0_0_36 nd_1_0_6500_7000_ci 0 3.45037e-11
rdload_0_0_0_37 nd_1_0_7500_7000 0 52.5004
rdesr_0_0_0_37 nd_1_0_7500_7000 nd_1_0_7500_7000_ci 52.5004
cd_0_0_0_37 nd_1_0_7500_7000_ci 0 3.80949e-11
rdload_0_0_0_38 nd_1_0_8500_7000 0 114.828
rdesr_0_0_0_38 nd_1_0_8500_7000 nd_1_0_8500_7000_ci 114.828
cd_0_0_0_38 nd_1_0_8500_7000_ci 0 1.74174e-11
rdload_0_0_0_39 nd_1_0_9500_7000 0 44.0368
rdesr_0_0_0_39 nd_1_0_9500_7000 nd_1_0_9500_7000_ci 44.0368
cd_0_0_0_39 nd_1_0_9500_7000_ci 0 4.54165e-11
rdload_0_0_0_40 nd_1_0_500_9000 0 266.226
rdesr_0_0_0_40 nd_1_0_500_9000 nd_1_0_500_9000_ci 266.226
cd_0_0_0_40 nd_1_0_500_9000_ci 0 7.5124e-12
rdload_0_0_0_41 nd_1_0_1500_9000 0 181.322
rdesr_0_0_0_41 nd_1_0_1500_9000 nd_1_0_1500_9000_ci 181.322
cd_0_0_0_41 nd_1_0_1500_9000_ci 0 1.10301e-11
rdload_0_0_0_42 nd_1_0_2500_9000 0 51.4029
rdesr_0_0_0_42 nd_1_0_2500_9000 nd_1_0_2500_9000_ci 51.4029
cd_0_0_0_42 nd_1_0_2500_9000_ci 0 3.89083e-11
rdload_0_0_0_43 nd_1_0_3500_9000 0 109.414
rdesr_0_0_0_43 nd_1_0_3500_9000 nd_1_0_3500_9000_ci 109.414
cd_0_0_0_43 nd_1_0_3500_9000_ci 0 1.82793e-11
rdload_0_0_0_44 nd_1_0_4500_9000 0 90.1949
rdesr_0_0_0_44 nd_1_0_4500_9000 nd_1_0_4500_9000_ci 90.1949
cd_0_0_0_44 nd_1_0_4500_9000_ci 0 2.21742e-11
rdload_0_0_0_45 nd_1_0_5500_9000 0 61.249
rdesr_0_0_0_45 nd_1_0_5500_9000 nd_1_0_5500_9000_ci 61.249
cd_0_0_0_45 nd_1_0_5500_9000_ci 0 3.26536e-11
rdload_0_0_0_46 nd_1_0_6500_9000 0 168.857
rdesr_0_0_0_46 nd_1_0_6500_9000 nd_1_0_6500_9000_ci 168.857
cd_0_0_0_46 nd_1_0_6500_9000_ci 0 1.18443e-11
rdload_0_0_0_47 nd_1_0_7500_9000 0 50.3511
rdesr_0_0_0_47 nd_1_0_7500_9000 nd_1_0_7500_9000_ci 50.3511
cd_0_0_0_47 nd_1_0_7500_9000_ci 0 3.97211e-11
rdload_0_0_0_48 nd_1_0_8500_9000 0 46.094
rdesr_0_0_0_48 nd_1_0_8500_9000 nd_1_0_8500_9000_ci 46.094
cd_0_0_0_48 nd_1_0_8500_9000_ci 0 4.33896e-11
rdload_0_0_0_49 nd_1_0_9500_9000 0 42.4448
rdesr_0_0_0_49 nd_1_0_9500_9000 nd_1_0_9500_9000_ci 42.4448
cd_0_0_0_49 nd_1_0_9500_9000_ci 0 4.712e-11

*-- intentional decap
cd_add_cap0 nd_1_0_1500_3000 nd0 'dcap_int_val130'
cd_add_cap1 nd_1_0_3500_3000 nd1 'dcap_int_val131'
cd_add_cap2 nd_1_0_5500_3000 nd2 'dcap_int_val132'
cd_add_cap3 nd_1_0_7500_3000 nd3 'dcap_int_val133'
cd_add_cap4 nd_1_0_1500_7000 nd4 'dcap_int_val134'
cd_add_cap5 nd_1_0_3500_7000 nd5 'dcap_int_val135'
cd_add_cap6 nd_1_0_5500_7000 nd6 'dcap_int_val136'
cd_add_cap7 nd_1_0_7500_7000 nd7 'dcap_int_val137'
rd_add0 nd0 0 'esr9'
rd_add1 nd1 0 'esr10'
rd_add2 nd2 0 'esr11'
rd_add3 nd3 0 'esr12'
rd_add4 nd4 0 'esr13'
rd_add5 nd5 0 'esr14'
rd_add6 nd6 0 'esr15'
rd_add7 nd7 0 'esr16'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_0_9 nd_pad_port_0_9 nd_pad_0_9 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_1_8 nd_pad_port_1_8 nd_pad_1_8 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_2_9 nd_pad_port_2_9 nd_pad_2_9 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_3_8 nd_pad_port_3_8 nd_pad_3_8 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_4_9 nd_pad_port_4_9 nd_pad_4_9 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
xd_pad_5_8 nd_pad_port_5_8 nd_pad_5_8 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_6_5 nd_pad_port_6_5 nd_pad_6_5 ubump_subckt
xd_pad_6_7 nd_pad_port_6_7 nd_pad_6_7 ubump_subckt
xd_pad_6_9 nd_pad_port_6_9 nd_pad_6_9 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_7_4 nd_pad_port_7_4 nd_pad_7_4 ubump_subckt
xd_pad_7_6 nd_pad_port_7_6 nd_pad_7_6 ubump_subckt
xd_pad_7_8 nd_pad_port_7_8 nd_pad_7_8 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_8_5 nd_pad_port_8_5 nd_pad_8_5 ubump_subckt
xd_pad_8_7 nd_pad_port_8_7 nd_pad_8_7 ubump_subckt
xd_pad_8_9 nd_pad_port_8_9 nd_pad_8_9 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
xd_pad_9_4 nd_pad_port_9_4 nd_pad_9_4 ubump_subckt
xd_pad_9_6 nd_pad_port_9_6 nd_pad_9_6 ubump_subckt
xd_pad_9_8 nd_pad_port_9_8 nd_pad_9_8 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_500_1000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_500_3000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_500_5000  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_500_7000  0.001
rd_pad2via_0_9 nd_pad_0_9 nd_2_0_500_9000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_1500_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_1500_3000  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_1500_5000  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_1500_7000  0.001
rd_pad2via_1_8 nd_pad_1_8 nd_2_0_1500_9000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_2500_1000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_2500_3000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_2500_5000  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_2500_7000  0.001
rd_pad2via_2_9 nd_pad_2_9 nd_2_0_2500_9000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3500_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3500_3000  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_3500_5000  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_3500_7000  0.001
rd_pad2via_3_8 nd_pad_3_8 nd_2_0_3500_9000  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4500_1000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4500_3000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_4500_5000  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_4500_7000  0.001
rd_pad2via_4_9 nd_pad_4_9 nd_2_0_4500_9000  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_5500_1000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_5500_3000  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_5500_5000  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_5500_7000  0.001
rd_pad2via_5_8 nd_pad_5_8 nd_2_0_5500_9000  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6500_1000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6500_3000  0.001
rd_pad2via_6_5 nd_pad_6_5 nd_2_0_6500_5000  0.001
rd_pad2via_6_7 nd_pad_6_7 nd_2_0_6500_7000  0.001
rd_pad2via_6_9 nd_pad_6_9 nd_2_0_6500_9000  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7500_1000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7500_3000  0.001
rd_pad2via_7_4 nd_pad_7_4 nd_2_0_7500_5000  0.001
rd_pad2via_7_6 nd_pad_7_6 nd_2_0_7500_7000  0.001
rd_pad2via_7_8 nd_pad_7_8 nd_2_0_7500_9000  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8500_1000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8500_3000  0.001
rd_pad2via_8_5 nd_pad_8_5 nd_2_0_8500_5000  0.001
rd_pad2via_8_7 nd_pad_8_7 nd_2_0_8500_7000  0.001
rd_pad2via_8_9 nd_pad_8_9 nd_2_0_8500_9000  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_9500_1000  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_9500_3000  0.001
rd_pad2via_9_4 nd_pad_9_4 nd_2_0_9500_5000  0.001
rd_pad2via_9_6 nd_pad_9_6 nd_2_0_9500_7000  0.001
rd_pad2via_9_8 nd_pad_9_8 nd_2_0_9500_9000  0.001

.ends chiplet2
